US04252738
107.0 g (0.743 mol) of 3-methoxy-3-methyl-2,4-dioxa-bicyclo[3,2,0]heptane (stereoisomer mixture) and 122.0 g (0.8 mol) of trimethylbromosilane are heated under reflux in 400 ml of methylene chloride for 15 hours. Concentration and distillation in vacuo give 132.9 g (93%) of trans-1-bromo-2-acetoxy-cyclobutane. Boiling point11 78°, nD20 1.4748.

reactant | 3-methoxy-3-methyl-2,4-dioxa-bicyclo[3,2,0]heptane | 0.743 mol, 107.0 g | COC1(OC2CCC2O1)C | C7H12O3
reactant | trimethylbromosilane | 0.8 mol, 122.0 g | C[Si](Br)(C)C | C3H9BrSi
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | trans-1-bromo-2-acetoxy-cyclobutane | 132.9 g, 93% | Br[C@H]1[C@@H](CC1)OC(C)=O | C6H9BrO2
